US04438270
α-Difluoromethyl-S-benzylhomocysteine
A mixture of α-difluoromethylmethionine (0.2 mole), concentrated hydrochloric acid (0.2 l) and benzylchloride (23 ml) is heated to reflux temperature for 24 hours. The reaction mixture is then concentrated under reduced pressure to a syrup which is dissolved in water. The aqueous solution is extracted with ether, and the aqueous phase is heated with charcoal and filtered. The precipitate is diluted with hot water to a volume of 100 ml and brought to a pH of about 4-5 by addition of aqueous ammonia. On cooling, α-difluoromethyl-S-benzylhomocysteine precipitates and is collected.

reactant | α-difluoromethylmethionine | 0.2 mole | FC([C@](N)(CCSC)C(=O)O)F | C6H11F2NO2S
reactant | hydrochloric acid | 0.2 l | Cl | ClH
reactant | benzylchloride | 23 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
product | α-Difluoromethyl-S-benzylhomocysteine | FC([C@](N)(CCSCC1=CC=CC=C1)C(=O)O)F | C12H15F2NO2S
